US08541448B2
Intermediate 171.1, 2-(2,4-dichlorobenzylamino)-1-(3-nitrophenyl)ethanone
Into a 250-mL 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 2-bromo-1-(3-nitrophenyl)ethanone (10.0 g, 41.15 mmol, 1.00 equiv) in THF (150 mL), (2,4-dichlorophenyl)methanamine (7.16 g, 40.91 mmol, 1.00 equiv) and triethylamine (5.96 g, 59.01 mmol, 1.50 equiv). The resulting solution was stirred for 2 h at 25° C. The solids were filtered out. The filtrate was concentrated to dryness and used for next step, assuming theoretical yield.

reactant | 2-bromo-1-(3-nitrophenyl)ethanone | 41.15 mmol, 10.0 g, 1.00 equiv | BrCC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | (2,4-dichlorophenyl)methanamine | 40.91 mmol, 7.16 g, 1.00 equiv | ClC1=C(C=CC(=C1)Cl)CN | C7H7Cl2N
reactant | triethylamine | 59.01 mmol, 5.96 g, 1.50 equiv | C(C)N(CC)CC | C6H15N
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(2,4-dichlorobenzylamino)-1-(3-nitrophenyl)ethanone | ClC1=C(CNCC(=O)C2=CC(=CC=C2)[N+](=O)[O-])C=CC(=C1)Cl | C15H12Cl2N2O3
